US08975254B2
c) 5-{2-[5-(3,4-Dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid
3,5-Pyrazoledicarboxylic acid monohydrate (8.02 g, 46.1 mmol) was dissolved in the mixture of dry DMF (35 ml), dry DCM (35 ml) and DIPEA (7.9 ml). 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI, 3.37 g, 17.6 mmol), HOBt (2.28 g, 16.9 mmol), and DIPEA (3 ml, 2.23 g, 17.3 mmol) were added at RT. The solution was mixed for 10 min. Then, 2-[5-(3,4-dichlorophenyl)-furan-2-yl]ethylamine hydrochloride (3.46 g, 11.8 mmol) dissolved in the mixture of dry DCM (35 ml) and DIPEA (2.0 ml, 1.48 g, 11.5 mmol) was dropped to the solution at RT. After stirring overnight water was added. The product was extracted into ethyl acetate. The organic phase was washed with water, dried and evaporated. The crude product was purified by flash chromatography using DCM as an eluent. The product was triturated in hot methanol. 1H NMR (400 MHz, DMSO-d6): 2.95 (2H, t), 3.56 (2H, m), 6.33 (1H, d), 7.01 (1H, d), about 7.03 (1H, broad s), 7.61 (1H, distorted dd), 7.63 (1H, distorted d), 7.83 (1H, d), about 8.45 (1H, broad s), about 14.05 (1H, broad s).

reactant | 3,5-Pyrazoledicarboxylic acid monohydrate | 46.1 mmol, 8.02 g | O.N1N=C(C=C1C(=O)O)C(=O)O
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 17.6 mmol, 3.37 g | Cl.CN(CCCN=C=NCC)C
reactant | HOBt | 16.9 mmol, 2.28 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-[5-(3,4-dichlorophenyl)-furan-2-yl]ethylamine hydrochloride | 11.8 mmol, 3.46 g | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | DCM | 35 ml | C(Cl)Cl | CH2Cl2
solvent | DIPEA | 7.9 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 35 ml | C(Cl)Cl | CH2Cl2
solvent | DIPEA | 11.5 mmol, 2.0 ml, 1.48 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DIPEA | 17.3 mmol, 3 ml, 2.23 g | CCN(C(C)C)C(C)C | C8H19N
solvent | water | O | H2O
product | 5-{2-[5-(3,4-Dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=CC(=NN1)C(=O)O | C17H13Cl2N3O4
